US08754107B2
To a solution of 3,4-dihydro-2H-isoquinolin-1-one (0.250 g, 1.70 mmol) in toluene (5 mL) was added sodium hydride (60% in mineral oil, 0.049 g, 2.04 mmol) and the resulting suspension was heated at about reflux for about 1 h. The reaction mixture was cooled at room temperature and ethyl 2-iodoacetate (0.364 g, 1.70 mmol) was added dropwise and the mixture was again heated at about reflux for about 12 h. The reaction mixture was cooled at room temperature and filtered, rinsed with toluene. The filtrate was concentrated in vacuo to provide (1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-acetic acid ethyl ester as a peach oil (0.336 g, 1.44 mmol). The crude material was used in subsequent reactions without further purification.

reactant | 3,4-dihydro-2H-isoquinolin-1-one | 1.70 mmol, 0.250 g | C1(NCCC2=CC=CC=C12)=O | C9H9NO
reactant | sodium hydride | 2.04 mmol, 0.049 g | [H-].[Na+]
reactant | ethyl 2-iodoacetate | 1.70 mmol, 0.364 g | ICC(=O)OCC | C4H7IO2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C2=CC=CC=C2CC1)=O)=O | C13H15NO3
